US06255276B1
28 g (0.11 mol) of 7-methyloxacyclohexadec-6-en-2-one were dissolved in 200 ml of ethyl acetate and hydrogenated in the presence of 2 g of 5% palladium-on-carbon under 150 mbar of hydrogen. The mixture was filtered over Celite, concentrated and distilled in a bulb-tube. 26 g (92%) of 7-methyloxacyclohexadecan-2-one were obtained having the following characteristics:

reactant | 7-methyloxacyclohexadec-6-en-2-one | 0.11 mol, 28 g | CC1=CCCCC(OCCCCCCCCC1)=O | C16H28O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 2 g | [Pd] | Pd
product | 7-methyloxacyclohexadecan-2-one | 26 g, 92% | CC1CCCCC(OCCCCCCCCC1)=O | C16H30O2
